US05356893
4-Bromo-N-(1,1-dimethylethyl)-3-methylbenzamide as a white solid (430 mg) m.p. 124°-125° C.
From 4-bromo-3-methylbenzoic acid (400 mg), thionyl chloride (0.4 ml) and 1,1-dimethylethanamine (0.8 ml).

reactant | 4-bromo-3-methylbenzoic acid | 400 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,1-dimethylethanamine | 0.8 ml | CC(C)(N)C | C4H11N
product | 4-Bromo-N-(1,1-dimethylethyl)-3-methylbenzamide | BrC1=C(C=C(C(=O)NC(C)(C)C)C=C1)C | C12H16BrNO
